US08865713B2
Step B: Preparation of 4-chloro-5-m-tolylsulfanyl-benzene-1,2-diamine.
To an ice bath cooled solution (0° C.) of 4-chloro-2-nitro-5-m-tolylsulfanyl-phenylamine (2.30 g, 7.80 mmol), ammonium chloride (6.26 g, 117 mmol), acetone (32.5 mL), and water (6.5 mL) was added portion-wise zinc powder (5.10 g, 78.0 mmol). The reaction mixture was removed from the ice bath and after 30 min, the reaction mixture was filtered through a pad of Celite® and washed with EtOAc. The filtrate was placed in a sep funnel and the organic layer was collected. The organic layers dried, filtered, and concentrated under reduced pressure. The crude material was used without further purification in the next reaction.

reactant | 4-chloro-2-nitro-5-m-tolylsulfanyl-phenylamine | 7.80 mmol, 2.30 g | ClC1=CC(=C(C=C1SC=1C=C(C=CC1)C)N)[N+](=O)[O-] | C13H11ClN2O2S
reactant | ammonium chloride | 117 mmol, 6.26 g | [Cl-].[NH4+]
reactant | acetone | 32.5 mL | CC(=O)C | C3H6O
catalyst | zinc | 78.0 mmol, 5.10 g | [Zn] | Zn
solvent | water | 6.5 mL | O | H2O
product | 4-chloro-5-m-tolylsulfanyl-benzene-1,2-diamine | ClC=1C=C(C(=CC1SC=1C=C(C=CC1)C)N)N | C13H13ClN2S
